US06806230B1
10.6 g (52 mmol) of 5-bromo-4-methylthiopyrimidine was dissolved in 100 ml of tetrahydrofuran, and at −60° C., 36 ml of a n-butylithium hexane solution (1.6 mol/l) was dropwise added. After stirring at −60° C. for 30 minutes, 4.1 g (57 mmol) of isobutylaldehyde was dropwise added and further reacted for 1 hour. The reaction solution was poured into water and extracted with ethyl acetate. The obtained organic layer was washed with water and then dried over anhydrous magnesium sulfate. Ethyl acetate was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (developing solvent/n-hexane:ethyl acetate=3:2) to obtain 2.9 g (yield: 28%) of 5-(1-hydroxy-2-methylpropyl)-4-methylthiopyrimidine as slightly yellow crystals (melting point: 123-127° C.).

reactant | 5-bromo-4-methylthiopyrimidine | 52 mmol, 10.6 g | BrC=1C(=NC=NC1)SC | C5H5BrN2S
reactant | hexane | 1.6 mol/l, 36 ml | CCCCCC | C6H14
reactant | water | O | H2O
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 5-(1-hydroxy-2-methylpropyl)-4-methylthiopyrimidine | 2.9 g, yield: 28% | OC(C(C)C)C=1C(=NC=NC1)SC | C9H14N2OS
